US08957216B2
Step-3: Preparation of 3-(trifluoromethyl)phenyl isothiocyanate
To a stirred solution of 3-(trifluoromethyl)aniline (20 g, 124.2 mmol) in DCM (100 mL) was added thiophosgene (21.24 g, 186.4 mmol) at 5-10° C. and the reaction mixture was stirred at room temperature for 1-2 h. The reaction was monitored by TLC (mobile phase-40% ethyl acetate in n-Hexane, Rf. S.M.—0.25, product—0.5). Upon disappearance of the starting material, the reaction mass was diluted with DCM, the organic layer was washed with 10% NaHCO3, water and brine. The organic layer was dried and concentrated in vacuo at a temperature lower than 45° C. to afford the product as a yellow oil (Yield: 19.2 g, 76.19% of theoretical).

reactant | 3-(trifluoromethyl)aniline | 124.2 mmol, 20 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | thiophosgene | 186.4 mmol, 21.24 g | C(=S)(Cl)Cl | CCl2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | n-Hexane | CCCCCC | C6H14
product | 3-(trifluoromethyl)phenyl isothiocyanate | Yield: 19.2 g, 76.19% | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
